US07166595B2
To a solution of 1-benzyl-2-{(R)-[(3-tert-butoxycarbonylamino-propyl)-(1-p-tolyl-methanoyl)-amino]-methyl-propyl}-4-methyl-6-oxo-1,6-dihydro-pyrimdine-5-carboxylic acid methyl ester (2.75 g, 4.55 mmol) in THF (60 mL) was added MeOH (30 mL) followed by 1N KOH (18.2 mL, 18.2 mmol). The resultant solution was heated to 60° C. for 3 h, then concentrated under reduced pressure. The residue was diluted with H2O (75 mL), adjusted to pH˜7 with 1N HCl, and extracted with EtOAc (3×75 mL). The extracts were dried over Na2SO4, filtered and concentrated under reduced pressure to give 2.69 g (100%) of 1-benzyl-2-{(R)-[(3-tert-butoxycarbonylamino-propyl)-(1-p-tolyl-methanoyl)-amino]-methyl-propyl}-4-methyl-6-oxo-1,6-dihydro-pyrimidine-5-carboxylic acid as an oil which was used in the subsequent step without purification: MS (ES) m/e 591.4 (M+H)+.

reactant | 1-benzyl-2-{(R)-[(3-tert-butoxycarbonylamino-propyl)-(1-p-tolyl-methanoyl)-amino]-methyl-propyl}-4-methyl-6-oxo-1,6-dihydro-pyrimdine-5-carboxylic acid methyl ester | 4.55 mmol, 2.75 g | COC(=O)C1=C(N=C(N(C1=O)CC1=CC=CC=C1)[C@](CC)(C)N(C(=O)C1=CC=C(C=C1)C)CCCNC(=O)OC(C)(C)C)C | C34H44N4O6
reactant | MeOH | 30 mL | CO | CH4O
reactant | KOH | 18.2 mmol, 1N, 18.2 mL | [OH-].[K+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-benzyl-2-{(R)-[(3-tert-butoxycarbonylamino-propyl)-(1-p-tolyl-methanoyl)-amino]-methyl-propyl}-4-methyl-6-oxo-1,6-dihydro-pyrimidine-5-carboxylic acid | 2.69 g, 100% | C(C1=CC=CC=C1)N1C(=NC(=C(C1=O)C(=O)O)C)[C@](CC)(C)N(C(=O)C1=CC=C(C=C1)C)CCCNC(=O)OC(C)(C)C | C33H42N4O6
